US07560551B2
A slurry of 4-pyridylboronic acid (0.0950 g, 0.773 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.0141 g, 0.0193 mmol), and N-(4-(5-iodopyrimidin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine (0.200 g, 0.387 mmol) and sodium carbonate 2.0 M in H2O (0.387 ml, 0.773 mmol) in 1.5 mL dioxane was flushed with nitrogen, sealed, and heated to 80° C. The reaction became dark and solids dissolved after 1 h. After 3 h, the reaction was judged complete. The reaction was cooled and diluted with DCM and water. The resulting aqueous emulsion was extracted 4× DCM. The combined organics were dried over anhyd sodium sulfate, filtered, and concentrated in vacuo. The material was adsorbed onto 1.8 g silica gel from MeOH/DCM, dried, and purified by silica gel chromatography (0-60-100% 90/10 DCM/MeOH in DCM) to give 4-phenyl-N-(4-(5-(pyridin-4-yl)pyrimidin-4-yloxy)phenyl)phthalazin-1-amine as a tan solid. MS m/z=469 [M+H]+. Calc'd for C29H20N6O: 468.5.

reactant | 4-pyridylboronic acid | 0.773 mmol, 0.0950 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | N-(4-(5-iodopyrimidin-4-yloxy)phenyl)-4-phenylphthalazin-1-amine | 0.387 mmol, 0.200 g | IC=1C(=NC=NC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C24H16IN5O
reactant | sodium carbonate | 2.0 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.0193 mmol, 0.0141 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 0.773 mmol, 0.387 ml | O | H2O
product | 4-phenyl-N-(4-(5-(pyridin-4-yl)pyrimidin-4-yloxy)phenyl)phthalazin-1-amine | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=NC=C1C1=CC=NC=C1 | C29H20N6O
